US08808703B2
Step 2: diethyl 4-azido-1,1-difluorobutylphosphonate
To a solution of diethyl 1,1-difluoro-4-iodobutylphosphonate (1 eq) in DMF (0.27 M) was added sodium azide (3 eq). The reaction mixture was stirred at room temperature for 90 minutes. The mixture was diluted with ethyl acetate and washed with water. The aqueous phase was back extracted with ethyl acetate. The combined organic phases were washed with brine, dried over anhydrous Na2SO4, and concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 10-50% EtOAc/Hex to give the product as a yellowish oil.

reactant | diethyl 1,1-difluoro-4-iodobutylphosphonate | 1 eq | FC(CCCI)(F)P(OCC)(OCC)=O | C8H16F2IO3P
reactant | sodium azide | 3 eq | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 0.27 M | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diethyl 4-azido-1,1-difluorobutylphosphonate | N(=[N+]=[N-])CCCC(F)(F)P(OCC)(OCC)=O | C8H16F2N3O3P
